US06010707
47 g of 1-N-(octylaminocarbonyl)imidazole and 42 g of N-methyl-D-glucamine were suspended in 300 cm3 of methanol under an inert atmosphere. The reaction mixture was maintained at reflux with stirring for 3 hours. Cooling was carried out with an ice bath and then the precipitate is filtered off. It was recrystallized from 300 cm3 of ethanol. 40 g (55% yield) of N-octylaminocarbonyl-N-methyl-D-glucamine were obtained in the form of a white powder.

reactant | 1-N-(octylaminocarbonyl)imidazole | 47 g | C(CCCCCCC)NC(=O)N1C=NC=C1 | C12H21N3O
reactant | N-methyl-D-glucamine | 42 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | methanol | 300 cm3 | CO | CH4O
product | N-octylaminocarbonyl-N-methyl-D-glucamine | 40 g, 55% yield | C(CCCCCCC)NC(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C16H34N2O6
